US06573273B1
Triethylamine (0.59 mL, 4.3 mmol) was added to a solution of 1-(4-aminobutyl)-2ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.5 mmol) in chloroform (100 mL). The solution was stirred in an ice bath for 5 min. Phenyl isocyanate (0.38 mL, 3.5 mmol) was slowly added. The resulting precipitate was isolated by filtration, washed with chloroform (4×30 mL), and then dried in an Abderhalden drying apparatus overnight to provide 1.11 g of N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea as a white solid, m.p. 179.7-181.4° C. Analysis: Calculated for C23H26N6O. 0.6H2O: %C, 66.84; %H, 6.63; %N, 20.33; Found: %C, 67.20; %H, 6.61; %N, 20.46.

reactant | Triethylamine | 4.3 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminobutyl)-2ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.5 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | Phenyl isocyanate | 3.5 mmol, 0.38 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea | 1.11 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)NC2=CC=CC=C2)CC | C23H26N6O
